US03937716
Into a 500 ml., three-neck flask equipped with a mechanical stirrer, dropping funnel and condenser with a drying tube was charged 171 g. (1 mole) of 3-glycidyl-2-isopropyloxazolidine and 250 cc. of absolute methanol. While stirring at room temperature an equivalent amount of sodium methoxide (25% solution methanol) was added over a 30 minute period. The mixture was stirred an additional two hours after addition was completed. The solvent was then removed in vacuo to afford 3-(3-methoxy-2-hydroxypropyl)-2-isopropyl-1,3-oxazolidine.

reactant | 3-glycidyl-2-isopropyloxazolidine | 1 mole | C(C1CO1)N1C(OCC1)C(C)C | C9H17NO2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(3-methoxy-2-hydroxypropyl)-2-isopropyl-1,3-oxazolidine | COCC(CN1C(OCC1)C(C)C)O | C10H21NO3
